US05821239
4-[[(1-Piperidinyl)methylene]amino]-3-pyridinol N,N-dimethylcarbamate
A mixture prepared from 4-[[(1-piperidinyl)methylene]amino]-3-pyridinol (3.5 g), triethylamine (3.69 mL), dimethylcarbamyl chloride (2.3 mL) and tetrahydrofuran (130 mL) was refluxed for 2 hours, filtered, poured directly onto a silica column and eluted successively with ethyl acetate and 5% Et3N/ethyl acetate to yield 4.49 g of product. Recrystallization from ethyl acetate and drying under high vacuum yielded 3.94 g of crystals, m.p. 88°-89° C.

reactant | 4-[[(1-piperidinyl)methylene]amino]-3-pyridinol | 3.5 g | N1(CCCCC1)C=NC1=C(C=NC=C1)O | C11H15N3O
reactant | triethylamine | 3.69 mL | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamyl chloride | 2.3 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | 130 mL | O1CCCC1 | C4H8O
product | 4-[[(1-Piperidinyl)methylene]amino]-3-pyridinol N,N-dimethylcarbamate | 4.49 g | CN(C(=O)OC=1C=NC=CC1N=CN1CCCCC1)C | C14H20N4O2
